US09375005B2
5-chloro-3-(difluoromethyl)-1-methyl-N-(1′-methyl-1′,3′-dihydrospiro[cyclopentane-1,2′-inden]-4′-yl)-1H-pyrazole-4-carboxamide (example 33)
In a 25 ml round bottom flask, a solution of 1′-methyl-1′,3′-dihydrospiro[cyclopentane-1,2′-inden]-4′-amine in 5 ml of DCM is cooled to 0° C. and triethylamine (0.104 ml, 0.745 mmol, 1.5 eq) is added followed by DMAP (6 mg, 0.05 mmol, 0.1 eq). A solution of 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbonyl chloride (125 mg, 0.546 mmol, 1.1 eq) in 1 ml of DCM is added dropwise. Stirring is allowed for 4 h at r.t. The reaction is quenched with 1N aq. HCl, and diluted with EtOAc. The aqueous layer was separated and extracted with EtOAc. The organics were combined, washed with NaOH 1N, dried over MgSO4 and concentrated. The crude material was purified by chromatography on silica gel to give pure material (64%)

reactant | 1′-methyl-1′,3′-dihydrospiro[cyclopentane-1,2′-inden]-4′-amine | CC1C2(CC=3C(=CC=CC13)N)CCCC2 | C14H19N
reactant | triethylamine | 0.745 mmol, 0.104 ml, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.546 mmol, 125 mg, 1.1 eq | ClC1=C(C(=NN1C)C(F)F)C(=O)Cl | C6H4Cl2F2N2O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.05 mmol, 6 mg, 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-3-(difluoromethyl)-1-methyl-N-(1′-methyl-1′,3′-dihydrospiro[cyclopentane-1,2′-inden]-4′-yl)-1H-pyrazole-4-carboxamide | 64% | ClC1=C(C(=NN1C)C(F)F)C(=O)NC1=C2CC3(C(C2=CC=C1)C)CCCC3 | C20H22ClF2N3O
